US20010012844A1
4-Amino-5-(4-methoxyphenoxy)quinazoline (1.0 g, 3.7 mmol) and phenyl isocyanate (0.52 g, 4.4 mmol) were reacted in 30 ml of dichloromethane according to procedure E to give 1-[5-(4-methoxyphenoxy)quinazolin-4-yl]-3-phenylurea (0.9 g, 64.3%, m.p. 231-232° C.).

reactant | 4-Amino-5-(4-methoxyphenoxy)quinazoline | 3.7 mmol, 1.0 g | NC1=NC=NC2=CC=CC(=C12)OC1=CC=C(C=C1)OC | C15H13N3O2
reactant | phenyl isocyanate | 4.4 mmol, 0.52 g | C1(=CC=CC=C1)N=C=O | C7H5NO
solvent | dichloromethane | 30 ml | ClCCl | CH2Cl2
product | 1-[5-(4-methoxyphenoxy)quinazolin-4-yl]-3-phenylurea | 0.9 g, 64.3% | COC1=CC=C(OC2=C3C(=NC=NC3=CC=C2)NC(=O)NC2=CC=CC=C2)C=C1 | C22H18N4O3
